US07208493B2
6-[{(Pyridin-2-ylmethyl)-amino]-methyl}-2,4-pteridinediamine
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (51 mg, 0.2 mmol) in anhydrous N,N dimethylacetamide was added 2-(aminomethyl) pyridine (22.48 ul, 0.22 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 32.3 mg product was obtained. Yield: 57%; 1H NMR (500 MHz, DMSO-d6): δ 3.93801 (s, 2H), 4.05772(s, 2H), 7.5758–7.6003 (m, 1H), 7.97993–8.00181 (m, 1H), 8.49332–8.50942 (d, J=8.05 Hz, 1H), 8.62592–8.64301 (d, J=8.545 Hz, 1H), 8.9938(s, 1H); ESI-MS: 283 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.2 mmol, 51 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | 2-(aminomethyl) pyridine | 0.22 mmol, 22.48 ul | NCC1=NC=CC=C1 | C6H8N2
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 6-[{(Pyridin-2-ylmethyl)-amino]-methyl}-2,4-pteridinediamine | 32.3 mg, Yield: 57% | N1=C(C=CC=C1)CNCC=1N=C2C(=NC(=NC2=NC1)N)N | C13H14N8
